US05273999
Preparation of 6-Hydroxy-2-quinolinepropanoic Acid Ethyl Ester
A mixture of 1.25 g (4.42 mmol) of 6-methoxy-2-quinolinepropanoic acid 1,1-dimethylethyl ester from the preceding example, and 10 mL of 48% hydrobromic acid solution was heated at reflux for 23 hr then poured onto crushed ice. Concentrated ammonium hydroxide solution was added slowly until the solution became neutral at which point it was concentrated to dryness under reduced pressure. To the residue was added 500 mL of ethanol followed by 20 mL of acetyl chloride and the resulting mixture was stirred at reflux for 17 hr. Most of ethanol was removed under reduced pressure, 150 mL of saturated aqueous sodium bicarbonate and 60 mL of water were added, and the mixture was worked-up with ethyl acetate in the usual manner. The crude product was flash chromatographed on 110 g of silica gel, eluting with hexane-ethyl acetate (3:1) to give 0.819 g (75.5%) of the title compound as a white solid, mp 126.5°-127.5° C.

reactant | 6-methoxy-2-quinolinepropanoic acid 1,1-dimethylethyl ester | 4.42 mmol, 1.25 g | CC(C)(C)OC(CCC1=NC2=CC=C(C=C2C=C1)OC)=O | C17H21NO3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | hydrobromic acid | 10 mL | Br | BrH
product | 6-Hydroxy-2-quinolinepropanoic Acid Ethyl Ester | 0.819 g, 75.5% | C(C)OC(CCC1=NC2=CC=C(C=C2C=C1)O)=O | C14H15NO3
